US07745476B2
Part B: A stirred mixture of N-[(4-chlorophenyl)sulfonyl]-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamide (2.36 gram, 5 mmol), PCl5 (1.15 g, 5.5 mmol) and chlorobenzene (50 ml) is heated for 90 minutes at 140° C. After cooling the mixture to room temperature the residue is dissolved in dichloromethane and methylamine.HCl (0.34 g, 5 mmol) and DIPEA (1.74 ml, 10 mmol) are successively added. The resulting mixture is stirred for 16 hours at room temperature, twice washed with water, dried over MgSO4, filtered and concentrated in vacuo. The resulting residue is further purified by flash chromatography (silica gel, dichloromethane/acetone=99/1 (v/v/), followed by crystallization from diisopropyl ether to give N-[(4-chlorophenyl)sulfonyl]-N′-methyl-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine (0.36 gram, 15% yield). Melting point: 134-144° C. Rf (silica gel, diethyl ether=0.4).

reactant | N-[(4-chlorophenyl)sulfonyl]-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamide | 5 mmol, 2.36 gram | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H17Cl2N3O3S
reactant | PCl5 | 5.5 mmol, 1.15 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | HCl | 5 mmol, 0.34 g | Cl | ClH
reactant | DIPEA | 10 mmol, 1.74 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methylamine | CN | CH5N
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-[(4-chlorophenyl)sulfonyl]-N′-methyl-1-(4-chlorophenyl)-5-phenyl-4,5-dihydro-(1H)-pyrazole-3-carboxamidine | 0.36 gram, 15% yield | ClC1=CC=C(C=C1)S(=O)(=O)NC(=NC)C1=NN(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C23H20Cl2N4O2S
